US06596742B1
4-Fluorobenzenesulfonic Acid Morpholide (Intermediate)
20 g of morpholine were added dropwise to a solution, cooled with ice, of 19.5 g of 4-fluorobenzenesulfonyl chloride in 100 ml of toluene, and the mixture was heated under reflux for 1 hour. After cooling, the mixture was concentrated under reduced pressure, the residue was stirred with water and the precipitate was filtered off with suction, washed with water and recrystallized from isopropanol.

reactant | morpholine | 20 g | N1CCOCC1 | C4H9NO
reactant | 4-fluorobenzenesulfonyl chloride | 19.5 g | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Fluorobenzenesulfonic Acid Morpholide | FC1=CC=C(C=C1)S(=O)(=O)N1CCOCC1 | C10H12FNO3S
